US04517191
Ethyl 1-(formylamino)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylate (11.8 g, 0.043 m) was added to a stirred mixture of 20.3 g (0.136 m) of anhydrous, milled potassium carbonate and 103 ml of dimethylformamide. The mixture was stirred for 30 minutes, and 20.3 ml (0.33 m) of methyl iodide was then added. The reaction mixture was stirred for five hours on a steam bath, then at room temperature overnight, and poured into 400 ml of ice-water. The solid product was collected by filtration, washed with water, and dried at 60° C. in vacuo to give 8.1 g of ethyl 1-(N-formylmethylamino)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylate, beige solid, m.p. 210°-212° C.

reactant | Ethyl 1-(formylamino)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylate | 11.8 g | C(=O)NN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)OCC | C13H13N3O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 20.3 ml | CI | CH3I
solvent | dimethylformamide | 103 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(N-formylmethylamino)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylate | 8.1 g | C(=O)CNN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)OCC | C14H15N3O4
